US06897036B2
Detection of HRP with Acridan Substrate 13 by Chemiluminescence
Chemiluminescent HRP detection limit using a reagent composition containing 0.05 mM 2′,3′,6′-trifluorophenyl 3-methoxy-10-methylacridan-9-carboxylate (compound 13), 0.1 mM 4-phenylphenol, 0.5 mM urea peroxide, 1 mM EDTA, and 0.025% TWEEN 20 in 0.01 M tris buffer, pH 8.0 was obtained on a Labsystems Luminoskan microtiter plate reader. White Microlite 1 FB 12-well strips (Dynatech Laboratories) containing 100 μL of the reagent in each well were reacted with 10 μL of HRP dilutions. Light intensity was measured at 10 min.

reactant | 4-phenylphenol | 0.1 mM | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | urea peroxide | 0.5 mM | C(=O)(N)N.OO
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | Acridan | C1=CC=CC=2NC3=CC=CC=C3CC12 | C13H11N
